US07622494B2
A mixture of 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one (50 mg, 0.19 mmol), (R)-α-methylbenzylamine (23 mg, 0.19 mmol), and p-toluenesulfonic acid (5 mg) in toluene (15 mL) were refluxed with a Dean-Stark trap for 16 hours. The mixture was concentrated and the residue dried under high vacuum. The residue was dissolved in dichloromethane (3 mL) before formic acid (0.036 mL, 0.95 mmol), triethylamine (0.052 mL, 0.38 mmol), and (S)-RuCl[(1R,2R)-p-TsNCH(C6He)CH(C6H6)NH2](η-benzene) (16 mg, 0.038 mmol) were added and stirred for one hour at room temperature. (S)-RuCl[(1R,2R)-p-TsNCH(C6H6)CH(C6H6)NH2](η-benzene) was prepared as described in Journal of American Chemical Society 1996, 118, 2521-2522, and references therein, incorporated herein by reference with regard to such synthesis. The mixture was diluted with dichloromethane (10 mL) and washed with saturated sodium bicarbonate (10 mL). The organic phase was applied directly to a silica gel chromatography column and was eluted with 5% ethyl acetate in dichloromethane. Appropriate fractions were concentrated to yield 48 mg (68%, 90% de) of (1R)-6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine. 1H NMR (DMSO-d6): δ 10.84 (s, 1H), 7.47 (m, 3H), 7.32 (m, 3H), 7.22 (t, 1H), 7.12 (d, 1H), 4.10 (m, 1H), 3.78 (m, 1H), 2.50 (m under DMSO, 2H), 2.16 (bs, 1H), 1.87 (m, 1H), 1.76 (m, 1H), 1.59 (m, 1H), 1.49 (m, 1H), 1.31 (d, 3H); MS m/z 368 (M−1). (1R)-6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine (48 mg, 90% de) was dissolved in ethyl ether (2 mL) before 1 M HCl in ether (2 mL) was added dropwise. The resulting precipitate was collected by filtration to yield 36 mg of a yellow solid. The solid was dissolved in hot methanol (2 mL). The solution was allowed to cool and ethyl ether added dropwise until the solution became cloudy. Crystals precipitated and were collected by filtration to yield 16 mg (30%, 100% de) of (1R)-6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride. 1H NMR (DMSO-d6): δ 11.66 (s, 1H), 9.86 (bs, 1H), 9.29 (m, 1H), 7.76 (d, 2H), 7.66 (s, 1H), 7.36-7.48 (m, 4H), 7.24 (d, 1H), 4.73 (m, 1H), 4.55 (m, 1H), 2.63 (m, 2H), 2.09 (m, 1H), 1.96 (m, 2H), 1.79 (m, 1H), 1.67 (d, 3H). MS m/z 367, 369 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.19 mmol, 50 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10BrNO
reactant | (R)-α-methylbenzylamine | 0.19 mmol, 23 mg | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | formic acid | 0.95 mmol, 0.036 mL | C(=O)O | CH2O2
reactant | triethylamine | 0.38 mmol, 0.052 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (1R)-6-bromo-N-[(1R)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 48 mg, 68% | BrC=1C=C2C=3CCC[C@H](C3NC2=CC1)N[C@H](C)C1=CC=CC=C1 | C20H21BrN2
